US08466186B2
(b) N-(4-Chloro-3-amino-benzyl)-1-trifluoromethyl-cyclopropanecarboxamide
A mixture of N-(4-chloro-3-nitro-benzyl)-1-trifluoromethyl-cyclopropanecarboxamide (340 mg, 1.1 mmol), EtOAc (10 mL) and Ra—Ni (30 mg) was stirred at rt under a hydrogen atmosphere (3 bar). The catalyst was removed by filtration and the filtrate was concentrated to give the sub-title compound.

reactant | N-(4-chloro-3-nitro-benzyl)-1-trifluoromethyl-cyclopropanecarboxamide | 1.1 mmol, 340 mg | ClC1=C(C=C(CNC(=O)C2(CC2)C(F)(F)F)C=C1)[N+](=O)[O-] | C12H10ClF3N2O3
catalyst | Ra—Ni | 30 mg | [Ni] | Ni
solvent | EtOAc | 10 mL | CCOC(=O)C | C4H8O2
product | N-(4-Chloro-3-amino-benzyl)-1-trifluoromethyl-cyclopropanecarboxamide | ClC1=C(C=C(CNC(=O)C2(CC2)C(F)(F)F)C=C1)N | C12H12ClF3N2O
